US07071175B1
To a suspension of NaH (0.24 g, 6.0 mmol, 60%) in DMF (5 mL) was added diethyl malonate (0.91 mL, 6.0 mmol) and the mixture was stirred for 15 min. A solution 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-bromomethyl-3-methyl-pyridin (2.0 g, 5.0 mmol) in DMF (5 mL) was added and the resulting solution stirred for 120 min at 60° C. Ethyl acetate was added and the mixture was washed with water and brine and dried. After evaporation of the solvent, the crude product was purified by flash chromatography (CH3OH/CH2Cl2, 1:100→1:20) to give 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-ylmethyl)-malonic acid diethyl ester (1.2 g, 50%).

reactant | NaH | 6.0 mmol, 0.24 g | [H-].[Na+]
reactant | diethyl malonate | 6.0 mmol, 0.91 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-bromomethyl-3-methyl-pyridin | 5.0 mmol, 2.0 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=C1C)CBr | C17H25BrN2O4
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(6-[N,N-bis(tert-butoxycarbonyl)amino]-5-methyl-pyridin-3-ylmethyl)-malonic acid diethyl ester | 1.2 g, 50% | C(C)OC(C(C(=O)OCC)CC=1C=NC(=C(C1)C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C24H36N2O8
